US05021435
Preparation of 3-methyl-2-(3-pyridyl)thiazolidin-4-one
According to the procedure of Example 3, the title compound was prepared by using nicotinaldehyde, a 40% aqueous methylamine solution, and thioglycolic acid.

reactant | nicotinaldehyde | C(C1=CN=CC=C1)=O | C6H5NO
reactant | methylamine | CN | CH5N
reactant | thioglycolic acid | C(CS)(=O)O | C2H4O2S
product | 3-methyl-2-(3-pyridyl)thiazolidin-4-one | CN1C(SCC1=O)C=1C=NC=CC1 | C9H10N2OS
